US08283354B2
At −10° C., triethylamine (2.3 mL, 16.6 mmol) was added to a solution of benzyl (R)-pyrrolidin-3-ylcarbamate oxalate (2.0 g, 6.4 mmol) in MeOH, followed by the slow addition of Boc2O (1.92 mL, 8.3 mmol). The reaction was allowed to warm to room temperature and was stirred overnight. The mixture was quenched with water and extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 0-10% EtOAc in CH2Cl2 gave benzyl(R)-1-(tert-butoxycarbonyl)pyrrolidin-3-ylcarbamate (1.85 g, 90%). LC/MS: m/z 321.3 (M+H)+ at 3.01 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | triethylamine | 16.6 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl (R)-pyrrolidin-3-ylcarbamate oxalate | 6.4 mmol, 2.0 g | C(C(=O)O)(=O)O.N1C[C@@H](CC1)NC(OCC1=CC=CC=C1)=O
reactant | Boc2O | 8.3 mmol, 1.92 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | CO | CH4O
product | benzyl(R)-1-(tert-butoxycarbonyl)pyrrolidin-3-ylcarbamate | 1.85 g, 90% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC(OCC1=CC=CC=C1)=O | C17H24N2O4
